US07855292B2
D. 4-Chloro-2-(quinoxaline-5-sulfonylamino)benzoic acid methyl ester
A solution of methyl 2-amino-4-chlorobenzoate (0.33 g, 1.8 mmol), quinoxaline-5-sulfonyl chloride (0.40 g, 1.8 mmol), pyridine (0.71 mL, 8.8 mmol), and DCM (10 mL) was stirred at rt for 16 h. EtOAc (75 mL) was added and the solution was washed with satd. aq. NaHCO3 (50 mL), then dried and concentrated. Chromatographic purification of this residue (EtOAc/hexanes) gave the title compound as a white solid (0.60 mg, 90%). MS (ESI+): mass calcd. for C16H12ClN3O4S, 377.0; m/z found, 378 [M+H]+. 1H NMR (400 MHz, CDCl3): 11.44 (s, 1H), 8.97 (d, J=1.8, 1H), 8.95 (d, J=1.8, 1H), 8.61 (dd, J=7.4, 1.4, 1H), 8.33 (dd, J=8.5, 1.4, 1H), 7.89 (dd, J=8.4, 1.0, 1H), 7.84 (d, J=2.0, 1H), 7.77 (d, J=8.6, 1H), 6.89 (dd, J=8.6, 2.0, 1H), 3.90 (s, 3H).

reactant | methyl 2-amino-4-chlorobenzoate | 1.8 mmol, 0.33 g | NC1=C(C(=O)OC)C=CC(=C1)Cl | C8H8ClNO2
reactant | quinoxaline-5-sulfonyl chloride | 1.8 mmol, 0.40 g | N1=CC=NC=2C(=CC=CC12)S(=O)(=O)Cl | C8H5ClN2O2S
reactant | pyridine | 8.8 mmol, 0.71 mL | N1=CC=CC=C1 | C5H5N
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | 4-Chloro-2-(quinoxaline-5-sulfonylamino)benzoic acid methyl ester | 0.60 mg, 90% | COC(C1=C(C=C(C=C1)Cl)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1)=O | C16H12ClN3O4S
